US05990346
To a solution of ice-cooled acetonitrile (2 ml) and pyridine (0.5 mL) was added hydrogen fluoride-pyridine (0.5 mL). To this solution was added (3S,4R)-4-(tert-butyldimethylsiloxy)-2-hexylthio-3-[(1E)-4-phenyl-3-(tert-butyldimethylsiloxy)-1-butenyl]-1-methyl-1-cyclopentene (295 mg) in pyridine (1.5 mL). The ice bath was removed and the solution was agitated for 20 hours while returning it to room temperature. The reaction solution was poured into a mixture of ethyl acetate and saturated aqueous sodium hydrogencarbonate. The desired product was extracted from this mixed solution with ethyl acetate and was washed with brine, then was dried over anhydrous sodium sulfate. This was concentrated under reduced pressure, then was purified by silica gel column chromatography (30% ethyl acetate/hexane) to obtain stereoisomers of (3S,4R)-2-hexylthio-4-hydroxy-3-[(1E)-4-phenyl-3-hydroxy-1-butenyl]-1-methyl-1-cyclopentene separately (less polar compounds: 48.6 mg, 27%; more polar compounds: 53.5 mg, 30%).

reactant | acetonitrile | 2 ml | C(C)#N | C2H3N
reactant | hydrogen fluoride-pyridine | 0.5 mL | N1=CC=CC=C1.F
reactant | (3S,4R)-4-(tert-butyldimethylsiloxy)-2-hexylthio-3-[(1E)-4-phenyl-3-(tert-butyldimethylsiloxy)-1-butenyl]-1-methyl-1-cyclopentene | 295 mg | O([Si](C)(C)C(C)(C)C)[C@H]1[C@@H](C(=C(C1)C)SCCCCCC)\C=C\C(CC1=CC=CC=C1)O[Si](C)(C)C(C)(C)C | C34H60O2SSi2
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | (3S,4R)-2-hexylthio-4-hydroxy-3-[(1E)-4-phenyl-3-hydroxy-1-butenyl]-1-methyl-1-cyclopentene | C(CCCCC)SC1=C(C[C@H]([C@@H]1\C=C\C(CC1=CC=CC=C1)O)O)C | C22H32O2S
